US04879382
A mixture of 15 g of sodium bicarbonate and 9.2 g of (N-amino)pyrrole in 50 ml of dichloromethane was treated over a period of fifteen minutes with 11.4 ml of ethyl chloroformate. The reaction mixture was then stirred at ambient temperature for four hours and filtered. The filtrate was washed with water followed by a saturated solution of sodium chloride, dried over anhydrous magnesium sulfate, and filtered. Concentration afforded 17 g of N-(1H-pyrrol-1-yl)carbamic acid ethyl ester, m.p. 60°-61° C.; MS(EI)M+ @ 154(100%); IR(CHCl3)-NH @ 3430 cm-1, C=O @ 1755 cm-1.

reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
reactant | (N-amino)pyrrole | 9.2 g | NN1C=CC=C1 | C4H6N2
reactant | ethyl chloroformate | 11.4 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(1H-pyrrol-1-yl)carbamic acid ethyl ester | 17 g | C(C)OC(NN1C=CC=C1)=O | C7H10N2O2
